US08017779B2
7-Bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline-5-oxide (0.500 g), water (4.0 mL), and piperidine (1.0 mL) were added sequentially to a 20 mL steel pressure vessel. The vessel was sealed and then heated in an oven at 150° C. for 16 hours. The reaction mixture was allowed to cool and then was extracted with chloroform (×2). The combined extracts were washed sequentially with water and brine and then dried over sodium sulfate. This material was combined with that from another run on the same scale and then purified by column chromatography on a Biotage Horizon™ High-Performance Flash Chromatography instrument using a silica gel cartridge and eluting with a gradient of 2-22% CMA in chloroform to provide 0.137 g of 2-ethoxymethyl-1-(3-isopropoxypropyl)-7-(piperidin-1-yl)-1H-imidazo[4,5-c]quinoline-5-oxide as a brown oil.

reactant | 7-Bromo-2-ethoxymethyl-1-(3-isopropoxypropyl)-1H-imidazo[4,5-c]quinoline-5-oxide | 0.500 g | BrC=1C=CC=2C3=C(C=[N+](C2C1)[O-])N=C(N3CCCOC(C)C)COCC | C19H24BrN3O3
reactant | piperidine | 1.0 mL | N1CCCCC1 | C5H11N
solvent | water | 4.0 mL | O | H2O
product | 2-ethoxymethyl-1-(3-isopropoxypropyl)-7-(piperidin-1-yl)-1H-imidazo[4,5-c]quinoline-5-oxide | 0.137 g | C(C)OCC=1N(C2=C(C=[N+](C=3C=C(C=CC23)N2CCCCC2)[O-])N1)CCCOC(C)C | C24H34N4O3
